US06914074B2
5-Chloro-6-(4-hydroxyphenyl)-2-naphthol
The title compound was prepared by reacting 1-chloro-6-methoxy-2-(4-methoxyphenyl)naphthalene (0.65 g, 2.18 mmol) with boron tribromide (6.5 mL of 1N solution) according to method D to yield 0.44 g (75%) of a white solid: mp>220° C.;

reactant | 1-chloro-6-methoxy-2-(4-methoxyphenyl)naphthalene | 2.18 mmol, 0.65 g | ClC1=C(C=CC2=CC(=CC=C12)OC)C1=CC=C(C=C1)OC | C18H15ClO2
reactant | boron tribromide | 1N, 6.5 mL | B(Br)(Br)Br | BBr3
product | 5-Chloro-6-(4-hydroxyphenyl)-2-naphthol | ClC1=C2C=CC(=CC2=CC=C1C1=CC=C(C=C1)O)O | C16H11ClO2
